US06518268B1
In an argon atmosphere, tris(4-bromophenyl)amine (964 mg, 2.00 mmol) was dissolved in tetrahydrofuran (10 mL) and cooled to −78° C. n-Butyl lithium (a 1.6 mol/L hexane solution, 1.5 mL, 2.4 mmol) and dimethylformamide (0.19 mL, 2.4 mmol) was dripped thereto at a system temperature of −60° C. or less, followed by stirring for 10 minutes. To the reaction liquid was added water and the product was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (elution solvent: hexane/ethyl acetate=8/1) to give 4-[bis(4-bromophenyl)amino]benzaldehyde (377 mg, 44%).

reactant | tris(4-bromophenyl)amine | 2.00 mmol, 964 mg | BrC1=CC=C(C=C1)N(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | C18H12Br3N
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | hexane | 1.6 mol/L | CCCCCC | C6H14
reactant | dimethylformamide | 2.4 mmol, 0.19 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-[bis(4-bromophenyl)amino]benzaldehyde | 377 mg, 44% | BrC1=CC=C(C=C1)N(C1=CC=C(C=O)C=C1)C1=CC=C(C=C1)Br | C19H13Br2NO
